US09328134B2
(2S,3S,4R,5R,6S)-2-((bis(acetoxymethoxy)phosphoryl)methyl)-6-methyltetrahydro-2H-pyran-3,4,5-triyl triacetate
This compound was synthesized by the same procedure used for the synthesis of (2S,3S,4R,5R,6S)-2-((bis((pivaloyloxy)methoxy)phosphoryl)methyl)-6-methyltetrahydro-2H-pyran-3,4,5-triyl triacetate, but using bromomethyl acetate (commercially available from Sigma Aldrich) instead of iodomethyl pivalate: ESI (M+H) 513.0; calc for C19H29O14P 512.4; 1H NMR (400 MHz, CD3OD) δ ppm 5.71-5.61 (m, 4 H) 5.29 (dd, J=3.33, 0.78 Hz, 1 H) 5.12 (dd, J=3.33, 10.17 Hz, 1 H) 5.05 (dd, J=9.59, 9.98 Hz, 1 H) 4.00-3.83 (m, 2 H) 2.35-2.17 (m, 2 H) 2.18 (s, 3 H) 2.16 (s, 3 H) 2.15 (s, 3 H) 2.09 (s, 3 H) 1.96 (2, 3 H) 1.18 (d, J=6.46 Hz, 3 H).

reactant | (2S,3S,4R,5R,6S)-2-((bis((pivaloyloxy)methoxy)phosphoryl)methyl)-6-methyltetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C)CP(=O)(OCOC(C(C)(C)C)=O)OCOC(C(C)(C)C)=O | C25H41O14P
reactant | bromomethyl acetate | C(C)(=O)OCBr | C3H5BrO2
reactant | iodomethyl pivalate | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | (2S,3S,4R,5R,6S)-2-((bis(acetoxymethoxy)phosphoryl)methyl)-6-methyltetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C)CP(=O)(OCOC(C)=O)OCOC(C)=O | C19H29O14P
